US09126993B2
Biphenyl-3-carboxylic acid (1-aza-bicyclo[2.2.2]oct-3-yl)-amide
Using general procedure I, 1-aza-bicyclo[2.2.2]oct-3-ylamine (200 mg, 1.00 mmol) and biphenyl-3-carboxylic acid gave the title compound as a white solid (211 mg, 68%). 1H NMR (400 MHz, CD3OD) δ 7.86 (s, 1H), 7.59 (d, J=7.6 Hz, 1H), 7.53 (d, J=8.0 Hz, 1H), 7.40 (d, J=7.6 Hz, 2H), 7.28 (t, J=7.6 Hz, 1H), 7.19 (t, J=7.6 Hz, 2H), 7.11 (t, J=7.6 Hz, 1H), 4.21 (br s, 1H), 3.56 (t, J=11.6 Hz, 1H), 3.11-3.22 (m, 1H), 3.05-3.10 (m, 4H), 2.10 (q, J=3.2 Hz, 1H), 1.95 (br s, 1H), 1.79-1.83 (m, 2H), 1.59-1.20 (m, 1H) ppm. 13C NMR (400 MHz, CD3OD) δ 169.6, 141.6, 140.2, 134.5, 130.3, 129.0, 127.7, 126.9, 126.3, 125.9, 51.9, 46.4, 46.0, 45.6, 24.6, 21.6, 17.3 ppm. Purity: 99.8% HPLCMS (210 nm); retention time 1.60 min; (M+1) 307.

reactant | 1-aza-bicyclo[2.2.2]oct-3-ylamine | 1.00 mmol, 200 mg | N12CC(C(CC1)CC2)N | C7H14N2
reactant | biphenyl-3-carboxylic acid | C1(=CC(=CC=C1)C(=O)O)C1=CC=CC=C1 | C13H10O2
product | Biphenyl-3-carboxylic acid (1-aza-bicyclo[2.2.2]oct-3-yl)-amide | 211 mg, 68% | N12CC(C(CC1)CC2)NC(=O)C=2C=C(C=CC2)C2=CC=CC=C2 | C20H22N2O
